US07285563B2
N-[4-(dimethylamino)phenyl]-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 4-(dimethylamino)phenyl isocyanate. m/z (ES+) 307 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-(dimethylamino)phenyl isocyanate | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
product | N-[4-(dimethylamino)phenyl]-N′-[quinolin-6-yl]urea | CN(C1=CC=C(C=C1)NC(=O)NC=1C=C2C=CC=NC2=CC1)C | C18H18N4O
